US06451501B1
After equipping a thoroughly dried 200 ml-volume three-necked flask with a dropping funnel, a calcium chloride tube and a nitrogen inlet tube, the system atmosphere was charged with nitrogen gas. A stirrer bar coated with Teflon™ was then added into the flask together with 50 ml of dry methylene chloride, 5.0 g (43.1 millimoles) of 2-hydroxysuccinic anhydride and 4.79 g (47.4 millimoles) of dry triethylamine, and the mixture was stirred at 0° C. under the nitrogen atmosphere. To this solution there was added, dropwise and over the period of an hour, 4.50 g (43.1 millimoles) of methacryloyl chloride that had been already placed in the dropping funnel, and then the mixture was stirred at room temperature for 2 hours. After confirming consumption of the starting materials by thin-layer chromatography, the reaction solution was transferred to a 300 ml separatory funnel and washed with 100 ml of water and saturated saline in that order. The aqueous phase was then extracted 3 times with methylene chloride. The organic layer was collected and dried over sodium sulfate anhydride. The dried organic layer was filtered with filter paper and the solvent in the filtrate was distilled off under reduced pressure. This yielded a brown oil. The oil was purified by silica gel chromatography to obtain methacryloxysuccinic anhydride as a colorless transparent oil. The yield was 6.75 g (85%).

reactant | 2-hydroxysuccinic anhydride | 43.1 millimoles, 5.0 g | OC1C(=O)OC(C1)=O | C4H4O4
reactant | triethylamine | 47.4 millimoles, 4.79 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 43.1 millimoles, 4.50 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methacryloxysuccinic anhydride | C(C(=C)C)(=O)OC1C(=O)OC(C1)=O | C8H8O5
